US07893111B2
Asymmetric synthesis of (−)-2-[2-(4-chlorophenyl)benzyl]sulphinylacetamide
A solution of (S,S)-(−)-diethyl-tartrate (2.47 g; 0.012 mol; 0.4 eq.) in a solvent (3.5 vol. vs thioacetamide) was introduced in a reactor with an impeller, containing 6.5 vol (vs thioacetamide) of the same solvent. The solution was stirred and heated to 50° C. before adding 0.2 equivalent of titanium (IV) tetraisopropoxide (1.71 g; 1.77 mL; 0.006 mol; 0.2 eq) and water (QSP to achieve 0.095 eq. in the mixture) and kept stirring at 50° C. for one hour. In these conditions, the resulting chiral titanium complex had the stoichiometry of DET/Ti(OiPr)4/H2O: 2/1/0.475 and corresponded to 0.2 eq. with respect to the thioacetamide. After stirring at 50° C. for one hour, 1.0 eq. (8.75 g; 0.03 mol) of 2-[2-(4-chlorophenyl)benzyl]sulphanyl acetamide was added and contacted for 30 min. After cooling to 20° C., were successively added 0.2 eq. (0.61 g; 0.84 mL; 0.006 mol) of triethylamine and around 10 minutes later, 1.0 eq (4.57 g; 5.0 mL; 0.03 mol) of cumene hydroperoxide within less than 5 minutes.

reactant | (S,S)-(−)-diethyl-tartrate | 0.012 mol, 2.47 g, 0.4 eq. | C(C)[C@@]([C@@](C(=O)[O-])(O)CC)(O)C(=O)[O-]
reactant | thioacetamide | C(C)(=S)N | C2H5NS
reactant | 2-[2-(4-chlorophenyl)benzyl]sulphanyl acetamide | 0.03 mol, 8.75 g, 1.0 eq. | ClC1=CC=C(C=C1)C1=C(CSCC(=O)N)C=CC=C1 | C15H14ClNOS
reactant | triethylamine | 0.006 mol, 0.84 mL, 0.61 g, 0.2 eq. | C(C)N(CC)CC | C6H15N
reactant | cumene hydroperoxide | 0.03 mol, 5.0 mL, 4.57 g, 1.0 eq | [O-]O.C1(=CC=CC=C1)C(C)C
catalyst | titanium (IV) tetraisopropoxide | 0.006 mol, 1.77 mL, 1.71 g, 0.2 equivalent | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
catalyst | Ti(OiPr)4 H2O | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C.O
solvent | water | O | H2O
product | (−)-2-[2-(4-chlorophenyl)benzyl]sulphinylacetamide | ClC1=CC=C(C=C1)C1=C(CS(=O)CC(=O)N)C=CC=C1 | C15H14ClNO2S
